US05705499
5,11-Dihydro-11-ethyl-4-methyl-8-(2-phenylethyl)-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
3-Bromo-2-chloro-5,11-dihydro-11-ethyl-4-methyl-8-(2-phenylethen-1-yl)-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (0.22 g) was dissolved in 20 mL of methanol, and ammonium formate (2.0 g) and 10% palladium on carbon (0.13 g) were added. The reaction mixture was stirred at room temperature under argon for 6 d. Additional ammonium formate (1.5 g) was added, and the reaction mixture was stirred for an additional 2 d. The reaction mixture was filtered and diluted with ethyl acetate. The organic layer was washed with water, dried over sodium sulfate, and concentrated to give 98 mg of the title compound, which was recrystallized from ethyl acetate/isopropyl ether, to give 51 mg, m.p. 174°-175° C.

reactant | 3-Bromo-2-chloro-5,11-dihydro-11-ethyl-4-methyl-8-(2-phenylethen-1-yl)-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.22 g | BrC1=C(C=2NC(C3=C(N(C2N=C1Cl)CC)N=CC(=C3)C=CC3=CC=CC=C3)=O)C | C22H18BrClN4O
reactant | ammonium formate | 2.0 g | C(=O)[O-].[NH4+]
reactant | ammonium formate | 1.5 g | C(=O)[O-].[NH4+]
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium on carbon | 0.13 g | [Pd] | Pd
product | 5,11-Dihydro-11-ethyl-4-methyl-8-(2-phenylethyl)-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 98 mg | C(C)N1C2=C(NC(C3=C1N=CC(=C3)CCC3=CC=CC=C3)=O)C(=CC=N2)C | C22H22N4O
